US08119805B2
Stage (vi): 1-(1-Methylpiperidin-4-yl)-4-((1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methylsulfonyl)piperazine (Example 37)
1-(1-Methyl-4-piperidinyl)piperazine (1.126 mmol) was dissolved in methylene chloride (7 ml), the solution was cooled in an ice bath and triethylamine (2.8 mmol) and (1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanesulfonic acid chloride (dissolved in methylene chloride (3 ml)) were added. The mixture was stirred for 16 h, during which it was allowed to warm slowly to room temperature. The reaction mixture was diluted with methylene chloride and washed with water and the organic phase was dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with methylene chloride/methanol (19:1). Yield: 30%. MS, Rt=2.4 min, m/z=553.0 [MH]+

reactant | 1-(1-Methyl-4-piperidinyl)piperazine | 1.126 mmol | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | triethylamine | 2.8 mmol | C(C)N(CC)CC | C6H15N
reactant | (1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanesulfonic acid chloride | 3 ml | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CS(=O)(=O)Cl)(F)F | C13H15ClF3NO4S2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 1-(1-Methylpiperidin-4-yl)-4-((1-(3-(trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methylsulfonyl)piperazine | Yield: 30% | CN1CCC(CC1)N1CCN(CC1)S(=O)(=O)CC1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C23H35F3N4O4S2
